US04605668
2-Fluoro-3,4-diethoxyaniline (0.17 g) and N,N-diethylaniline (0.13 g) were dissolved in toluene (15 ml). To the resultant solution was dropwise added isopropyl chloroformate (0.11 g) in 5 minutes under ice-cooling. The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-(2-fluoro-3,4-diethoxyphenyl)carbamate (Compound No. 1) (0.23 g) in a yield of 94.4%. M.P., 79°-81° C.

reactant | 2-Fluoro-3,4-diethoxyaniline | 0.17 g | FC1=C(N)C=CC(=C1OCC)OCC | C10H14FNO2
reactant | N,N-diethylaniline | 0.13 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | isopropyl chloroformate | 0.11 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl N-(2-fluoro-3,4-diethoxyphenyl)carbamate | 0.23 g, yield of 94.4% | FC1=C(C=CC(=C1OCC)OCC)NC(OC(C)C)=O | C14H20FNO4
